US04716160
7-Thienylamino-1H-pyrazolo[4,3-b]pyridine (E2)
Ethyl 7-thienylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate (0.600 g) was converted to the corresponding acid by heating under reflux with a 2% sodium hydroxide solution in ethanol (50 ml). The ethanol was removed under reduced pressure and the residue diluted with water (5 ml) and acidified to pH5 with dilute hydrochloric acid. The resulting acid was filtered off and dried, mp 255°-259° C.

reactant | Ethyl 7-thienylamino-1H-pyrazolo[4,3-b]pyridine-6-carboxylate | 0.600 g | S1C(=CC=C1)NC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C13H12N4O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 7-Thienylamino-1H-pyrazolo[4,3-b]pyridine | S1C(=CC=C1)NC1=C2C(=NC=C1)C=NN2 | C10H8N4S
